US07521062B2
Thiosemicarbazide (1.0 equiv.) was dissolved in MeOH upon heating under nitrogen. Aqueous sodium hydroxide (6 M, 9.0 equiv.) was added to the reaction. A methanol solution of 3-(dimethylamino)-1-[5-(3-chlorophenyl)(2-furyl)]propan-1-one (1.0 equiv) was then added dropwise to the reaction mixture. The solvent was removed and the residue was dissolved in DCM and washed with water, brine, dried over MgSO4, and concentrated. The final compound was purified by preparative-HPLC to give amino{3-[5-(3-chlorophenyl)(2-furyl)](2-pyrazolinyl)}methane-1-thione; LC/MS m/z 306.2 (MH+); Rt=3.06 minutes.

reactant | Thiosemicarbazide | 1.0 equiv. | NNC(=S)N | CH5N3S
reactant | sodium hydroxide | 6 M, 9.0 equiv. | [OH-].[Na+]
reactant | 3-(dimethylamino)-1-[5-(3-chlorophenyl)(2-furyl)]propan-1-one | 1.0 equiv | CN(CCC(=O)C=1OC(=CC1)C1=CC(=CC=C1)Cl)C | C15H16ClNO2
solvent | MeOH | CO | CH4O
product | amino{3-[5-(3-chlorophenyl)(2-furyl)](2-pyrazolinyl)}methane-1-thione | NC(=S)N1N=C(CC1)C=1OC(=CC1)C1=CC(=CC=C1)Cl | C14H12ClN3OS
